US07772244B2
(R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
To a solution of (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-nitrophenyl carbonate (150 mg, 0.23 mmol) and 3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride (89.5 mg, 1.50 equiv) in dimethylformamide (1 mL) was added diisopropylethylamine (0.16 mL, 0.90 mmol), and stirred at room temperature overnight. The reaction was concentrated and purified by column chromatography to give 102 mg (60%) as a colorless film. Mass spec.: 755.53 (MH)+.

reactant | (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-nitrophenyl carbonate | 0.23 mmol, 150 mg | C(O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C34H47N5O7Si
reactant | 3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride | 89.5 mg, 1.50 equiv | Cl.N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O
reactant | diisopropylethylamine | 0.90 mmol, 0.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C42H58N6O5Si
